US05675007
Stage 1 Preparation of 1-azabicydo[2.2.2]oct-3-ylidenecyanoacetic acid
40% Aqueous NaOH (370 ml, 3.7 mol) was added to a stirred suspension of 3-quinuclidinone hydrochloride (600 g, 3.7 mol) in water (300 ml) over 30 min while maintaining the temperature at 15°-25° C. The resulting mixture was then cooled to 15° C. and a solution of cyanoacetic acid (380 g, 4.5 mol) in water (150 ml) added in a steady stream over 30 min while stirring and maintaining the temperature at 15°-20° C. After the addition was complete, further 40% aq. NaOH (900 ml, 9.0 mol) was added gradually over 45 min while stirring and maintaining the temperature at 15°-20° C. The resulting reddish solution was then left to stir at ambient temperature for a further 2 h before cooling to 15° C. Seeding with authentic sodium 1-azabicyclo[2.2.2]oct-3-ylidenecyanoacetate induced crystallisation of the same, and the mixture was then chilled further to 7° C. with stirring until a thick slurry of the sodium salt was obtained. After stirring at this temperature for a further 45 min a mixture of conc HCl (725 ml) and water (725 ml) was added in a steady stream over 45 min while stirring and maintaining the temperature at 15°-20° C. After adjusting to pH7 the resulting slurry of the Stage 1 product was stirred at ambient temperature for an additional 45 min before using directly for Stage 2.

reactant | NaOH | 3.7 mol, 370 ml | [OH-].[Na+]
reactant | 3-quinuclidinone hydrochloride | 3.7 mol, 600 g | Cl.N12CC(C(CC1)CC2)=O
reactant | cyanoacetic acid | 4.5 mol, 380 g | C(#N)CC(=O)O | C3H3NO2
reactant | NaOH | 9.0 mol, 900 ml | [OH-].[Na+]
reactant | sodium 1-azabicyclo[2.2.2]oct-3-ylidenecyanoacetate | N12CC(C(CC1)CC2)=C(C(=O)[O-])C#N.[Na+]
reactant | HCl | 725 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | water | 725 ml | O | H2O
product | 1-azabicydo[2.2.2]oct-3-ylidenecyanoacetic acid | N12CC(C(CC1)CC2)=C(C(=O)O)C#N | C10H12N2O2
